US05753664
7-[4-(6-Chloronicotinoyl)benzyl]-1,3-dimethylxanthine
A solution of 1,3-dimethylxanthine (712 mg), potassium carbonate (578 mg) and 4-(6-chloronicotinoyl)benzyl bromide (1515 mg) in DMF (10 ml) was stirred at 60° C. for 5 hours. This reaction mixture was poured in water and extracted with ethyl acetate. The extract was washed with water, dried, and. concentrated. The residue was purified by silica gel column chromatography (hexane: ethyl acetate =1:3) and recrystallized from chloroform-isopropyl ether to provide the title compound as colorless solid (1562 mg).

reactant | 1,3-dimethylxanthine | 712 mg | CN1C(=O)N(C=2N=CNC2C1=O)C | C7H8N4O2
reactant | potassium carbonate | 578 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(6-chloronicotinoyl)benzyl bromide | 1515 mg | ClC1=NC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C13H9BrClNO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-[4-(6-Chloronicotinoyl)benzyl]-1,3-dimethylxanthine | 1562 mg | ClC1=NC=C(C(=O)C2=CC=C(CN3C=NC=4N(C(N(C(C34)=O)C)=O)C)C=C2)C=C1 | C20H16ClN5O3
